US05932601
A toluene solution of diisobutylaluminum hydride (1.5M, 72.2 ml) was added dropwise, at 0° C., to a solution of ethyl 3-methoxy-4-(2-phenyl-4-oxazolylmethoxy)cinnamate (16.4 g) in tetrahydrofuran (THF) (240 ml). The mixture was stirred for 2 hours at room temperature, to which was added, under ice-cooling, methanol (7 ml). The reaction mixture was poured into 2N HCl (600 ml), which was subjected to extraction with ethyl acetate. The ethyl acetate layer was washed with water, dried (MgSO4) and concentrated to yield (E)-3-[3-methoxy-4-(2-phenyl-4-oxazolylmethoxy)phenyl]-2-propen-1-ol (14.4 g, 98%), which was recrystallized from ethyl acetate-hexane to give colorless needles, m.p.113-114° C.

reactant | toluene | C1(=CC=CC=C1)C | C7H8
reactant | diisobutylaluminum hydride | 1.5M, 72.2 ml | [H-].C(C(C)C)[Al+]CC(C)C
reactant | ethyl 3-methoxy-4-(2-phenyl-4-oxazolylmethoxy)cinnamate | 16.4 g | COC=1C=C(C=CC(=O)OCC)C=CC1OCC=1N=C(OC1)C1=CC=CC=C1 | C22H21NO5
reactant | HCl | 2N, 600 ml | Cl | ClH
solvent | tetrahydrofuran | 240 ml | O1CCCC1 | C4H8O
solvent | methanol | 7 ml | CO | CH4O
product | (E)-3-[3-methoxy-4-(2-phenyl-4-oxazolylmethoxy)phenyl]-2-propen-1-ol | 14.4 g, 98% | COC=1C=C(C=CC1OCC=1N=C(OC1)C1=CC=CC=C1)/C=C/CO | C20H19NO4
